US04914109
2-(3-Bromophenyl)-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(3-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (6.0 g, 0.018 mole) 1,1'-carbonyldiimidazole (2.9 g, 0.018 mole), and anhydrous tetrahydrofuran (200 ml) was stirred at room temperature with a stream of nitrogen bubbling through for 4 hours. The nitrogen flow was stopped and a solution of methylamine in tetrahydrofuran (36 ml of 1M) was added. The solution was stirred at room temperature under nitrogen for 1/2 hour. The reaction mixture was filtered and concentrated in vacuo and the residue triturated in water (100 ml) and filtered. The filter cake was recrystallized from tetrahydrofuran-isopropyl ether, giving 4.6 g (74%). Recrystallization from isopropyl alcohol-isopropyl ether gave 4.4 g of off-white needles, mp 199°-201° C.

reactant | 2-(3-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.018 mole, 6.0 g | BrC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 1M, 36 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(3-Bromophenyl)-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 4.4 g | BrC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)NC | C15H13BrN4O
